US04227014
To a suspension of p-cyclohexylaminobenzoic acid (44 g.) in glyme (350 ml.) and pyridine (70 ml.) at 0° C. is added trifluoroacetic anhydride (67 ml., 100 g.) at such a rate as to maintain the temperature at 20°-30° C. The resulting solution is stirred at 10°-15° C. for 2 hours, then diluted with ether (400 ml.), cooled in an ice-bath and ice (100 gm.) is added. The mixture is stirred vigorously at ambient temperature for 1 hour. The aqueous layer is extracted with ether and the combined ether extracts are washed with water, brine, dried over sodium sulfate and concentrated in vacuo to provide p-[N-trifluoroacetyl-N-cyclohexylamino]benzoic acid as an oil that solidifies upon standing.

reactant | p-cyclohexylaminobenzoic acid | 44 g | C1(CCCCC1)NC1=CC=C(C(=O)O)C=C1 | C13H17NO2
reactant | trifluoroacetic anhydride | 67 ml, 100 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | glyme | 350 ml | C(OC)COC | C4H10O2
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | 400 ml | CCOCC | C4H10O
product | p-[N-trifluoroacetyl-N-cyclohexylamino]benzoic acid | FC(C(=O)N(C1CCCCC1)C1=CC=C(C(=O)O)C=C1)(F)F | C15H16F3NO3
